US08334287B2
b) 2-chloro-4-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-pyridine
The title compound, light brown solid, MS: m/e=308.2, 310.1 (M+H+) was prepared in accordance with the general method of example 1b from 2-Methyl-4-m-tolylethynyl-1H-imidazole and 2-chloro-4-fluoropyridine

reactant | 2-Methyl-4-m-tolylethynyl-1H-imidazole | CC=1NC=C(N1)C#CC=1C=C(C=CC1)C | C13H12N2
reactant | 2-chloro-4-fluoropyridine | ClC1=NC=CC(=C1)F | C5H3ClFN
product | 2-chloro-4-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-pyridine | ClC1=NC=CC(=C1)N1C(=NC(=C1)C#CC=1C=C(C=CC1)C)C | C18H14ClN3
